US09169242B2
Step 2: 3-(3-Bromo-4-methylphenyl)-1-oxa-2-azaspiro[4.5]dec-2-en-4-one:
The crude product was purified with column chromatography (silica gel, ethyl acetate and hexane) to afford the desired product 170 mg of the title product along with 100 mg of the 3-(3-bromo-4-methylphenyl)-1-oxa-2-azaspiro[4.5]dec-2-en-4-ol. The 3-(3-bromo-4-methylphenyl)-1-oxa-2-azaspiro[4.5]dec-2-en-4-ol was again converted to the title product by the oxidation with chromium trioxide by following the procedure described for step-5 of the intermediate 1.

reactant | 3-(3-bromo-4-methylphenyl)-1-oxa-2-azaspiro[4.5]dec-2-en-4-ol | BrC=1C=C(C=CC1C)C1=NOC2(C1O)CCCCC2 | C15H18BrNO2
catalyst | chromium trioxide | [O-2].[O-2].[O-2].[Cr+6]
product | 3-(3-Bromo-4-methylphenyl)-1-oxa-2-azaspiro[4.5]dec-2-en-4-one | BrC=1C=C(C=CC1C)C1=NOC2(C1=O)CCCCC2 | C15H16BrNO2
